US07381719B2
Using a method similar to Example 221, Step 1, using [2-(3-hydroxy-2-isopropyl-phenyl)-ethyl]-carbamic acid tert-butyl ester (4.02 g, 14.4 mmol), 6-chloronicotino-nitrile (1.99 g, 14.4 mmol) and K2CO3 (2.98 g, 21.5 mmol) gives {2-[3-(5-cyano-pyridin-2-yloxy)-2-isopropyl-phenyl]-ethyl}-carbamic acid tert-butyl ester (4.11 g) as a yellow foam. 1H NMR (CDCl3): 8.50 (s, 1H), 7.92 (d, 1H), 7.17 (t, 1H), 7.06 (d, 1H), 7.01 (d, 1H), 6.86 (d, 1H), 4.63 (br. s, 1H), 3.34 (m, 2H), 3.27 (m, 1H), 2.91 (t, 2H), 1.44 (s, 9H), 1.24 (d, 6H).

reactant | [2-(3-hydroxy-2-isopropyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 14.4 mmol, 4.02 g | C(C)(C)(C)OC(NCCC1=C(C(=CC=C1)O)C(C)C)=O | C16H25NO3
reactant | 6-chloronicotino-nitrile | 14.4 mmol, 1.99 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | K2CO3 | 21.5 mmol, 2.98 g | C(=O)([O-])[O-].[K+].[K+]
product | {2-[3-(5-cyano-pyridin-2-yloxy)-2-isopropyl-phenyl]-ethyl}-carbamic acid tert-butyl ester | 4.11 g | C(C)(C)(C)OC(NCCC1=C(C(=CC=C1)OC1=NC=C(C=C1)C#N)C(C)C)=O | C22H27N3O3
